US09260408B2
Ethanesulfonic acid [5-(3-oxo-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-9-yl)-pyridin-3-ylmethyl]-amide
In analogy to the procedure described for the preparation of example 45, 9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,6,7-tetrahydropyrido[3,2,1-ij]quinolin-3(5H)-one (prepared from 9-bromo-1,2,6,7-tetrahydropyrido[3,2,1-ij]quinolin-3(51H)-one and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) in analogy to the procedure described for the preparation of intermediate A-1 [B]) has been coupled to ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11) to give the title compound as an off-white amorphous solid. MS: 386.2 (M+H+).

reactant | 9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,6,7-tetrahydropyrido[3,2,1-ij]quinolin-3(5H)-one | CC1(OB(OC1(C)C)C=1C=C2CCC(N3C2=C(C1)CCC3)=O)C | C18H24BNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
product | Ethanesulfonic acid [5-(3-oxo-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-9-yl)-pyridin-3-ylmethyl]-amide | O=C1N2C3=C(C=C(C=C3CC1)C=1C=C(C=NC1)CNS(=O)(=O)CC)CCC2 | C20H23N3O3S
